US04803279
A mixture of 51.6 g (0.3 mol) of 4-fluorophenacylchloride, 33.66 g (0.33 mol) of 2-aminothiazoline and 200 ml of ethanol was heated at reflux for 2 hours. The mixture was cooled to room temperature at which point 300 ml of water was added. After a reflux period of 2 hours, the mixture was concentrated to remove about 190 ml of aqueous alcohol. The pH of the residue was adjusted to about 2 with 10% hydrochloric acid (10 ml). The solid product was separated and dried to give 65.4 g (85%) of 6-(4-fluorophenyl)-2,3-dihydroimidazo[2,1-b]thiazole, m.p. 116°-118°.

reactant | 4-fluorophenacylchloride | 0.3 mol, 51.6 g | FC1=CC=C(C(CCl)=O)C=C1 | C8H6ClFO
reactant | 2-aminothiazoline | 0.33 mol, 33.66 g | NC=1SCCN1 | C3H6N2S
reactant | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 300 ml | O | H2O
product | 6-(4-fluorophenyl)-2,3-dihydroimidazo[2,1-b]thiazole | 65.4 g, 85% | FC1=CC=C(C=C1)C=1N=C2SCCN2C1 | C11H9FN2S
